US05447957
g) 2-[2-[3-[3,5-Bis (trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzoic acid
Benzhydrol-2-[2-[3-[3,5-bis(trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzoate (110 mg, 0.0002 mol) was dissolved in ethyl acetate and a palladium on carbon catalyst (50 mg) was added, under argon. The mixture was hydrogenated in a parr bottle at 54 psi, for 16 h. The mixture was filtered through Celite® and washed with ethyl acetate and methanol. The solvents were evaporated and the residue was flash chromatographed (silica gel, ethyl acetate/hexane/formic acid) to yield the tide compound; mp 238°-240° C.

reactant | Benzhydrol 2-[2-[3-[3,5-bis(trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzoate | 0.0002 mol, 110 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC1=C(OC2=C(C(=O)[O-])C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F)=O)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 2-[2-[3-[3,5-Bis (trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1-dimethylpropyl)benzoic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC1=C(OC2=C(C(=O)O)C=C(C=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F)=O)(F)F | C28H23F9N2O4
